US06569591B2
A linear sulfonated random copolyester resin comprising 46.5 mole percent terephthalate, 3.5 mole percent sodium sulfoisophthalate, 47.5 mole percent 1,2-propanediol, and 2.5 mole percent diethylene glycol is prepared as follows. Into a 5 gallon Parr reactor equipped with a bottom drain valve, double turbine agitator, and distillation receiver with a cold water condenser are charged 3.98 kilograms of dimethylterephthalate, 451 grams of sodium dimethyl sulfoisophthalate, 3.104 kilograms of 1,2-propanediol (1 mole excess of glycol), 351 grams of diethylene glycol (1 mole excess of glycol), and 8 grams of butyltin hydroxide oxide catalyst. The reactor is then heated to 165° C. with stirring for 3 hours whereby 1.33 kilograms of distillate are collected in the distillation receiver, and which distillate comprises about 98 percent by volume methanol and 2 percent by volume 1,2-propanediol as measured by the ABBE refractometer available from American Optical Corporation. The reactor mixture is then heated to 190° C. over a one hour period, after which the pressure is slowly reduced from atmospheric pressure to about 260 Torr over a one hour period, and then reduced to 5 Torr over a two hour period with the collection of approximately 470 grams of distillate in the distillation receiver, and which distillate comprises approximately 97 percent by volume 1,2-propanediol and 3 percent by volume methanol as measured by the ABBE refractometer. The pressure is then further reduced to about 1 Torr over a 30 minute period whereby an additional 530 grams of 1,2-propanediol are collected. The reactor is then purged with nitrogen to atmospheric pressure, and the polymer product discharged through the bottom drain onto a container cooled with dry ice to yield 3.5 mole percent sulfonated polyester resin, sodio salt of (1,2-propylene-dipropylene-5-sulfoisophthalate)-copoly (1,2-propylene-dipropylene terephthalate).

reactant | terephthalate | C(C1=CC=C(C(=O)[O-])C=C1)(=O)[O-]
reactant | sodium sulfoisophthalate | S(=O)(=O)(O)C1=C(C(=O)[O-])C=CC=C1C(=O)[O-].[Na+].[Na+]
reactant | 1,2-propanediol | C(C(C)O)O | C3H8O2
reactant | dimethylterephthalate | 3.98 kilograms | COC(C1=CC=C(C(=O)OC)C=C1)=O | C10H10O4
reactant | sodium dimethyl sulfoisophthalate | 451 grams | S(=O)(=O)(O)C1=C(C(=O)OC)C=CC=C1C(=O)OC.[Na]
reactant | 1,2-propanediol | 1 mole, 3.104 kilograms | C(C(C)O)O | C3H8O2
catalyst | butyltin hydroxide oxide | 8 grams | CCCC[Sn](=O)O
solvent | diethylene glycol | C(COCCO)O | C4H10O3
solvent | diethylene glycol | 1 mole, 351 grams | C(COCCO)O | C4H10O3
product | 1,2-propylene-dipropylene terephthalate | C1(C2=CC=C(C(=O)OC(CC(CCC(C)O1)C)C)C=C2)=O | C17H22O4
